US06137003
A slurry of methyl 3-hydroxy-4-nitrobenzoate (5.5 g, 0.028 mol), iodooctane (10.0 g, 0.042 mol) and potassium carbonate (20 g) in 100 mL DMF was stirred at 100° C. for 3 hours. The reaction mixture was cooled to room temperature, diluted with 500 mL H2O, then extracted with ether/ethyl acetate (9/1, 2×200 mL). The combined organic solution was washed with 400 mL H2O, dried over sodium sulfate, and concentrated to form methyl 4-nitro-3-octoxybenzoate as an off-white oil (8.7 g, 100%).

reactant | methyl 3-hydroxy-4-nitrobenzoate | 0.028 mol, 5.5 g | OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | iodooctane | 0.042 mol, 10.0 g | ICCCCCCCC | C8H17I
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 500 mL | O | H2O
product | methyl 4-nitro-3-octoxybenzoate | 8.7 g, 100% | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C=C1)OCCCCCCCC | C16H23NO5
